US07456218B2
[4′-(benzyloxy)-2′,6′-dimethylbiphenyl-3-yl]methanol
A solution of 2-{[4′-(benzyloxy)-2′,6′-dimethylbiphenyl-3-yl]methoxy}tetrahydro-2H-pyran (1.71 g, 4.25 mmol) and p-toluenesulfonic acid monohydrate (80.8 mg, 0.425 mmol) in methanol (15 mL) was stirred at room temperature for 20 hrs. The reaction solvent was evaporated under reduced pressure and the residue was diluted with ethyl acetate, washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (20%-50% ethyl acetate/hexane) to give the title compound (1.13 g, yield 84%) as a colorless oil.

reactant | 2-{[4′-(benzyloxy)-2′,6′-dimethylbiphenyl-3-yl]methoxy}tetrahydro-2H-pyran | 4.25 mmol, 1.71 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)COC1OCCCC1)C | C27H30O3
reactant | p-toluenesulfonic acid monohydrate | 0.425 mmol, 80.8 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 15 mL | CO | CH4O
product | [4′-(benzyloxy)-2′,6′-dimethylbiphenyl-3-yl]methanol | 1.13 g, yield 84% | C(C1=CC=CC=C1)OC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)CO)C | C22H22O2
